US05034417
A mixture of 4'-amino-3'-(2,4-difluorophenylamino)acetophenone (1.6 g), trifluoromethanesulfonic anhydride (2.1 g) and triethylamine (0.75 g) in dichloromethane (15 ml) was stirred overnight at room temperature. The reaction mixture was concentrated. The residue was dissolved in ethanol (5 ml) and treated with 5% sodium hydroxide solution (30 ml). Water (30 ml) was added and the resulting solution was washed with toluene. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried and evaporated. The residue (1.9 g) was purified by column chromatography on silica gel (60 g) eluting with a mixture of chloroform and methanol (9:1) to give an oil of 4'-acetyl-2'-(2,4-difluorophenylamino)-1,1,1-trifluoromethanesulfonanilide (1.1 g).

reactant | 4'-amino-3'-(2,4-difluorophenylamino)acetophenone | 1.6 g | NC1=C(C=C(C=C1)C(C)=O)NC1=C(C=C(C=C1)F)F | C14H12F2N2O
reactant | trifluoromethanesulfonic anhydride | 2.1 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 0.75 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4'-acetyl-2'-(2,4-difluorophenylamino)-1,1,1-trifluoromethanesulfonanilide | 1.1 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C(F)(F)F)C=C1)NC1=C(C=C(C=C1)F)F | C15H11F5N2O3S
